US06320050B1
A solution of (3-chloro-4-methylsulfanyl-phenyl)-hydroxy-acetic acid ethyl ester (1.43 g, 5.49 mmol) in pyridine (2 mL) was treated with acetic anhydride (2 mL) and 4-dimethylaminopyridine (50 mg, 0.41 mmol). The reaction mixture was stirred at 25° C. for 16 h. The reaction mixture was then diluted with methylene chloride (100 mL). The organic layer was washed with a IN aqueous hydrochloric acid solution (2×30 mL), washed with a saturated aqueous sodium chloride solution (1×30 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 4/1 hexanes/ethyl acetate) afforded acetoxy-(3-chloro-4-methylsulfanyl-phenyl)-acetic acid ethyl ester (1.51 g, 91%) as a light yellow oil: EI-HRMS m/e calcd for C13H15ClO4S (M+) 302.0379, found 302.0387.

reactant | (3-chloro-4-methylsulfanyl-phenyl)-hydroxy-acetic acid ethyl ester | 5.49 mmol, 1.43 g | C(C)OC(C(O)C1=CC(=C(C=C1)SC)Cl)=O | C11H13ClO3S
reactant | acetic anhydride | 2 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.41 mmol, 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | acetoxy-(3-chloro-4-methylsulfanyl-phenyl)-acetic acid ethyl ester | 1.51 g, 91% | C(C)OC(C(C1=CC(=C(C=C1)SC)Cl)OC(C)=O)=O | C13H15ClO4S
